US05821239
4-t-Butyloxycarbonylamino-3-pyridinol N,N-diethylcarbamate
4-Amino-3-pyridinol N,N-diethylcarbamate (2.09 g) was dissolved in CH2Cl2 (20 mL) and then di-t-butyl dicarbonate (2.20 g) was added in several portions. After stirring for 15 minutes, the mixture was applied directly to a flash chromatography column and eluted with 50% ethyl acetate/CH2Cl2. The product-containing fractions were concentrated to give 2.89 g of chromatographically pure product. An analytically pure material was obtained by recrystallization from hexane (2.20 g), m.p. 91°-93° C.

reactant | 4-Amino-3-pyridinol N,N-diethylcarbamate | 2.09 g | C(C)N(C(=O)OC=1C=NC=CC1N)CC | C10H15N3O2
reactant | di-t-butyl dicarbonate | 2.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | hexane | 2.20 g | CCCCCC | C6H14
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-t-Butyloxycarbonylamino-3-pyridinol N,N-diethylcarbamate | C(C)N(C(=O)OC=1C=NC=CC1NC(=O)OC(C)(C)C)CC | C15H23N3O4
